US08202873B2
3′-(3-Chloro-4-fluorophenyl)-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl
Add 3-chloro-4-fluorobenzeneboronic acid (71 mg, 0.41 mmol) to a mixture of 3′-chloro-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (104 mg, 0.34 mmol), potassium carbonate (113 mg, 0.82 mmol) and tetrakis(triphenyl-phosphine)palladium(0) (0.002 g, 0.002 mmol) in N,N-dimethylacetamide (2 mL) and water (1 mL). Purge with nitrogen and heat overnight at 110° C. Cool to room temperature, add water (10 mL), extract with DCM (3×20 mL), combine and purify using high pH reverse phase HPLC to give title compound (76 mg, 57.7%). MS (ES): m/z=387 [M+H]+.

reactant | 3-chloro-4-fluorobenzeneboronic acid | 0.41 mmol, 71 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | 3′-chloro-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.34 mmol, 104 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C | C13H17ClN6
reactant | potassium carbonate | 0.82 mmol, 113 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 1 mL | O | H2O
product | 3′-(3-Chloro-4-fluorophenyl)-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 76 mg, 57.7% | ClC=1C=C(C=CC1F)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C | C19H20ClFN6
